US08217066B2
Step 3: 1-{4′-[4-(2-Benzylamino-1-hydroxy-ethyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester:
1-[4′-(3-Methyl-4-oxiranyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester (0.100 g, 0.26 mmol) and benzylamine (0.034 mL, 0.31 mmol) were combined in NMP (5 mL) and the reaction was stirred overnight at 85° C. Additional benzylamine (0.05 mL, 0.46 mmol) was added and the reaction was stirred for two days at 85° C. Aqueous workup provided the title compound.

reactant | 1-[4′-(3-Methyl-4-oxiranyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester | 0.26 mmol, 0.100 g | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)C1OC1 | C24H23NO4
reactant | benzylamine | 0.31 mmol, 0.034 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | benzylamine | 0.46 mmol, 0.05 mL | C(C1=CC=CC=C1)N | C7H9N
solvent | NMP | 5 mL | CN1CCCC1=O | C5H9NO
product | 1-{4′-[4-(2-Benzylamino-1-hydroxy-ethyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)C(CNCC1=CC=CC=C1)O | C31H32N2O4
